US08664401B2
Step B) 5-Fluoro-4-iodopyridin-2(1H)-one
2,5-Difluoro-4-iodopyridine (500 mg, 2.08 mmol) was suspended in acetic acid:water (2:1, 30 mL). The mixture was heated to reflux and stirred at this temperature overnight. The reaction was concentrated to dryness to afford the title compound as a yellow solid (491 mg, 99.0%). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.02 (d, J=5.07 Hz, 1H) 7.69 (d, J=2.34 Hz, 1H).

reactant | 2,5-Difluoro-4-iodopyridine | 2.08 mmol, 500 mg | FC1=NC=C(C(=C1)I)F | C5H2F2IN
reactant | acetic acid water | 30 mL | C(C)(=O)O.O
product | 5-Fluoro-4-iodopyridin-2(1H)-one | 491 mg, 99.0% | FC=1C(=CC(NC1)=O)I | C5H3FINO
